US09108926B2
2-Chloro-5-fluoro-4-(4-fluoro-2-methoxyphenyl)pyrimidine
A batch with 2,4-dichloro-5-fluoropyrimidine (200 mg; 1.20 mmol; Aldrich Chemical Company Inc.), (4-fluoro-2-methoxyphenyl)boronic acid (224 mg; 1.31 mmol; Aldrich Chemical Company Inc.) and tetrakis(triphenylphosphin)palladium(0) (138 mg; 0.12 mmol) in 1,2-dimethoxyethane (3.6 mL) and 2 M solution of potassium carbonate (1.8 mL) was degassed using argon. The batch was stirred under argon for 16 hours at 90° C. After cooling the batch was diluted with ethyl acetate and washed with brine. The organic phase was filtered using a Whatman filter and concentrated. The residue was purified by column chromatography (hexane/ethyl acetate 1:1) to give the desired product (106 mg; 0.41 mmol).

reactant | 2,4-dichloro-5-fluoropyrimidine | 1.20 mmol, 200 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | (4-fluoro-2-methoxyphenyl)boronic acid | 1.31 mmol, 224 mg | FC1=CC(=C(C=C1)B(O)O)OC | C7H8BFO3
reactant | potassium carbonate | 1.8 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 3.6 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-fluoro-4-(4-fluoro-2-methoxyphenyl)pyrimidine | 0.41 mmol, 106 mg | ClC1=NC=C(C(=N1)C1=C(C=C(C=C1)F)OC)F | C11H7ClF2N2O
